US04438271
(D) Preparation of 2-[1-(2-chloro-6-fluorophenyl)ethylthio]pyridine 1-oxide
2-chloro-6-fluoro-alpha-methylbenzyl chloride (46.2, 0.24 mol is dissolved in ethanol (120 Ml) and warmed to 75° C. A 40 percent solution of sodium omadine (98.1 g, 0.26 mol) is added dropwise over a period of 30 minutes maintaining a reaction temperature of 75° C. throughout. Once the addition is complete, the reaction mixture is kept at 75° C. for 2 hours and then stirred at room temperature for 16 hours. Thereafter the mixture is quenched in ice-water and crude product is filtered off. After recrystallization with ethyl acetate pure title product (27.7 g, 40.8%) is obtained; Melting Point 142°-144° C.

reactant | 2-chloro-6-fluoro-alpha-methylbenzyl chloride | ClC1=C(C(C)Cl)C(=CC=C1)F | C8H7Cl2F
reactant | sodium omadine | 0.26 mol, 98.1 g | C=1C=C[N+](=C(C1)[S-])[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[1-(2-chloro-6-fluorophenyl)ethylthio]pyridine 1-oxide | ClC1=C(C(=CC=C1)F)C(C)SC1=[N+](C=CC=C1)[O-] | C13H11ClFNOS
